* File: NOR2D1.cdl.pex
* Created: Mon Dec 22 21:14:09 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NOR2D1%net11 4 5 10 11 21 37 38 39 40
r25 51 53 0.2952
r26 49 51 0.2952
r27 47 49 0.738
r28 45 47 0.2952
r29 42 45 0.2952
r30 35 53 1
r31 30 37 1.61792
r32 29 35 0.156299
r33 28 30 0.252919
r34 28 29 2.03688
r35 27 51 1
r36 24 49 1
r37 24 27 0.2952
r38 22 35 0.104199
r39 22 27 0.2214
r40 21 47 1
r41 19 45 1
r42 19 21 2.73701
r43 17 42 1
r44 17 19 2.73701
r45 17 38 3.42127
r46 13 38 2.05276
r47 11 40 20.306
r48 10 11 20.3052
r49 7 21 8.18375
r50 7 10 20.3052
r51 5 39 20.306
r52 4 5 20.3052
r53 1 13 8.18375
r54 1 4 20.3052
.ends

.subckt PM_NOR2D1%VSS 1 4 27 34 35 36
r2 38 43 0.316286
r3 31 43 1
r4 29 43 1
r5 29 31 0.15269
r6 27 34 1.02185
r7 26 43 1
r8 26 29 0.15269
r9 26 27 0.251086
r10 20 36 0.726911
r11 15 35 13.0535
r12 12 38 1
r13 9 38 1
r14 7 38 1
r15 7 9 2.6107
r16 5 15 0.766616
r17 5 7 3.26338
r18 4 20 6.52675
r19 4 12 13.0535
r20 1 12 0.365498
r21 1 9 2.2452
.ends

.subckt PM_NOR2D1%net10 1 6 10 11 15 20 24 25 29 34 38 39 44 45 46 47 48 49
r64 39 49 20.306
r65 38 39 20.3052
r66 35 43 6.97267
r67 35 38 20.3052
r68 33 34 20.3052
r69 33 48 20.3052
r70 29 43 6.97267
r71 29 34 20.306
r72 28 42 4.89506
r73 27 43 0.353334
r74 27 28 16.3169
r75 25 47 20.306
r76 24 25 20.3052
r77 21 42 8.70233
r78 21 24 20.3052
r79 19 20 20.3052
r80 19 46 20.3052
r81 15 42 8.70233
r82 15 20 20.306
r83 14 41 0.353334
r84 13 42 4.89506
r85 13 14 16.3169
r86 11 45 20.306
r87 10 11 20.3052
r88 7 41 6.97267
r89 7 10 20.3052
r90 5 6 20.3052
r91 5 44 20.3052
r92 1 41 6.97267
r93 1 6 20.306
.ends

.subckt PM_NOR2D1%VDD 1 6 11 14 19 23 28 31 36 43 44 45 46
r44 35 36 20.3052
r45 35 46 20.3052
r46 31 42 1.43649
r47 31 36 20.306
r48 30 41 5.52744
r49 29 42 5.52744
r50 29 30 21.7558
r51 27 28 20.3052
r52 27 45 20.3052
r53 23 41 1.43649
r54 23 28 20.306
r55 21 40 5.52744
r56 20 41 5.52744
r57 18 19 20.3052
r58 18 44 20.3052
r59 14 40 1.43649
r60 14 19 20.306
r61 13 39 5.52744
r62 12 40 5.52744
r63 12 13 21.7558
r64 10 11 20.3052
r65 10 43 20.3052
r66 6 39 1.43649
r67 6 11 20.306
r68 1 20 31.3284
r69 1 21 20.8856
.ends

.subckt PM_NOR2D1%OUT 1 5 6 11 12 17 18 19
r23 12 19 20.306
r24 11 12 20.3052
r25 8 11 20.3052
r26 6 17 20.306
r27 5 6 20.3052
r28 2 5 20.3052
r29 1 2 11.2517
r30 1 8 11.2517
r31 1 18 5.62116
.ends

.subckt PM_NOR2D1%net12 1 6 10 11 15 20 24 25 29 34 38 39 44 45 46 47 48 49
r62 39 49 20.306
r63 38 39 20.3052
r64 35 43 6.97267
r65 35 38 20.3052
r66 33 34 20.3052
r67 33 48 20.3052
r68 29 43 6.97267
r69 29 34 20.306
r70 28 42 4.89506
r71 27 43 0.353334
r72 27 28 16.3169
r73 25 47 20.306
r74 24 25 20.3052
r75 21 42 8.70233
r76 21 24 20.3052
r77 19 20 20.3052
r78 19 46 20.3052
r79 15 42 8.70233
r80 15 20 20.306
r81 14 41 0.353334
r82 13 42 4.89506
r83 13 14 16.3169
r84 11 45 20.306
r85 10 11 20.3052
r86 7 41 6.97267
r87 7 10 20.3052
r88 5 6 20.3052
r89 5 44 20.3052
r90 1 41 6.97267
r91 1 6 20.306
.ends

.subckt PM_NOR2D1%IN2 15 18 21 22 24 30 32 34 37 38 40 46 48 51 52 54 57 58 60
+ 66 68 70 73 74 76 78 82 84 111 112 113 114 115 116 117 118 119
r105 127 129 0.2952
r106 121 124 0.2952
r107 119 127 0.16974
r108 119 124 0.12546
r109 83 84 0.62445
r110 83 118 0.62445
r111 82 118 0.624484
r112 81 82 0.62445
r113 78 84 0.624484
r114 77 81 0.62445
r115 75 76 0.62445
r116 75 117 0.62445
r117 74 117 0.624484
r118 73 74 0.62445
r119 70 78 0.8856
r120 70 76 0.624484
r121 69 77 0.8856
r122 69 73 0.62445
r123 67 68 0.62445
r124 67 116 0.62445
r125 66 116 0.624484
r126 65 66 0.62445
r127 62 70 0.8856
r128 62 68 0.624484
r129 61 69 0.8856
r130 61 65 0.62445
r131 59 60 0.62445
r132 59 115 0.62445
r133 58 115 0.624484
r134 57 58 0.62445
r135 54 62 0.8856
r136 54 60 0.624484
r137 53 61 0.8856
r138 53 57 0.62445
r139 51 54 0.28782
r140 51 52 1.85976
r141 49 53 0.28782
r142 49 50 1.85976
r143 47 48 0.62445
r144 47 114 0.62445
r145 46 114 0.624484
r146 45 46 0.62445
r147 42 52 0.28782
r148 42 48 0.624484
r149 41 50 0.28782
r150 41 45 0.62445
r151 39 40 0.62445
r152 39 113 0.62445
r153 38 113 0.624484
r154 37 38 0.62445
r155 34 42 0.8856
r156 34 40 0.624484
r157 33 41 0.8856
r158 33 37 0.62445
r159 31 32 0.62445
r160 31 112 0.62445
r161 30 112 0.624484
r162 29 30 0.62445
r163 26 34 0.8856
r164 26 32 0.624484
r165 25 33 0.8856
r166 25 29 0.62445
r167 23 24 0.62445
r168 23 111 0.62445
r169 22 111 0.624484
r170 21 22 0.62445
r171 18 26 0.8856
r172 18 24 0.624484
r173 17 25 0.8856
r174 17 21 0.62445
r175 15 18 0.28782
r176 15 16 0.92988
r177 13 17 0.28782
r178 13 14 0.92988
r179 11 12 0.75276
r180 10 129 1
r181 10 11 0.75276
r182 8 127 1
r183 8 10 0.2952
r184 6 124 1
r185 6 8 0.2952
r186 4 121 1
r187 4 6 0.2952
r188 2 16 0.260498
r189 2 12 0.75276
r190 1 14 0.260498
r191 1 4 0.10332
.ends

.subckt PM_NOR2D1%IN1 13 17 18 21 22 24 30 32 33 34 37 38 40 46 48 49 50 53 54
+ 57 58 60 66 68 69 70 73 74 76 77 82 84 111 112 113 114 115 116 117 118 119
r109 127 129 0.2952
r110 121 124 0.2952
r111 119 127 0.17712
r112 119 124 0.11808
r113 83 84 0.62445
r114 83 118 0.62445
r115 82 118 0.624484
r116 81 82 0.62445
r117 78 84 0.624484
r118 77 81 0.62445
r119 75 76 0.62445
r120 75 117 0.62445
r121 74 117 0.624484
r122 73 74 0.62445
r123 70 78 0.8856
r124 70 76 0.624484
r125 69 77 0.8856
r126 69 73 0.62445
r127 67 68 0.62445
r128 67 116 0.62445
r129 66 116 0.624484
r130 65 66 0.62445
r131 62 70 0.8856
r132 62 68 0.624484
r133 61 69 0.8856
r134 61 65 0.62445
r135 59 60 0.62445
r136 59 115 0.62445
r137 58 115 0.624484
r138 57 58 0.62445
r139 54 62 0.8856
r140 54 60 0.624484
r141 53 61 0.8856
r142 53 57 0.62445
r143 51 54 0.28782
r144 51 52 1.85976
r145 49 53 0.28782
r146 49 50 1.85976
r147 47 48 0.62445
r148 47 114 0.62445
r149 46 114 0.624484
r150 45 46 0.62445
r151 42 52 0.28782
r152 42 48 0.624484
r153 41 50 0.28782
r154 41 45 0.62445
r155 39 40 0.62445
r156 39 113 0.62445
r157 38 113 0.624484
r158 37 38 0.62445
r159 34 42 0.8856
r160 34 40 0.624484
r161 33 41 0.8856
r162 33 37 0.62445
r163 31 32 0.62445
r164 31 112 0.62445
r165 30 112 0.624484
r166 29 30 0.62445
r167 26 34 0.8856
r168 26 32 0.624484
r169 25 33 0.8856
r170 25 29 0.62445
r171 23 24 0.62445
r172 23 111 0.62445
r173 22 111 0.624484
r174 21 22 0.62445
r175 18 26 0.8856
r176 18 24 0.624484
r177 17 25 0.8856
r178 17 21 0.62445
r179 15 18 0.28782
r180 15 16 0.92988
r181 13 17 0.28782
r182 13 14 0.92988
r183 11 12 0.75276
r184 10 129 1
r185 10 11 0.75276
r186 8 127 1
r187 8 10 0.2952
r188 6 124 1
r189 6 8 0.2952
r190 4 121 1
r191 4 6 0.2952
r192 2 16 0.260498
r193 2 12 0.75276
r194 1 14 0.260498
r195 1 4 0.10332
.ends

