* File: AND2D2.cdl.pex
* Created: Wed Jan 15 17:24:47 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_AND2D2%net11 1 4 5 8 18 20 22 23 30 31 35 37 43 59
c43 59 0 0.102175f
c44 43 0 0.400959f
c45 37 0 0.384586f
c46 35 0 0.169426f
c47 33 0 0.0256255f
c48 31 0 0.263443f
c49 30 0 0.13609f
c50 23 0 0.683115f
c51 22 0 0.024851f
c52 20 0 0.0250752f
c53 18 0 0.103193f
r54 43 59 0.0503289
r55 35 37 0.238548
r56 30 59 0.14
r57 30 32 0.488662
r58 30 31 0.488662
r59 23 33 0.282372
r60 22 35 4.16667
r61 20 33 0.666667
r62 18 22 0.279364
r63 18 32 1.58333
r64 15 20 0.279364
r65 15 31 4.58333
r66 4 23 5
r67 1 43 0.00291667
r68 1 8 0.0189583
r69 1 8 0.0335417
r70 1 5 0.00583333
r71 1 5 0.0466667
.ends

.subckt PM_AND2D2%IN1 3 6 9 14 15 17 20
c22 20 0 0.16181f
c23 17 0 0.178215f
c24 15 0 0.856617f
c25 14 0 0.05995f
c26 9 0 0.481982f
r27 17 20 0.282372
r28 15 19 0.831548
r29 14 20 4.16667
r30 11 14 0.279364
r31 10 19 0.049177
r32 9 11 1.5
r33 9 10 3.33333
r34 6 17 1.25
r35 3 15 5
.ends

.subckt PM_AND2D2%IN2 3 6 9 10 12 14 19
c29 19 0 0.0202572f
c30 14 0 0.104716f
c31 12 0 0.217144f
c32 10 0 0.846182f
c33 9 0 0.340633f
r34 16 20 0.049177
r35 14 17 0.279364
r36 14 19 1.58333
r37 12 19 0.282372
r38 10 20 0.831548
r39 9 17 0.75
r40 9 16 6.91667
r41 6 12 1.25
r42 3 10 5
.ends

.subckt PM_AND2D2%VSS 1 2 15
c15 2 0 2.71474f
c16 1 0 1.27854f
r17 2 15 0.114333
r18 1 15 0.112
.ends

.subckt PM_AND2D2%VDD 1 4 9 12
c17 12 0 1.25304f
c18 9 0 1.31864f
c19 4 0 0.557556f
c20 1 0 0.92356f
r21 9 12 0.128333
r22 4 9 0.345333
r23 1 4 0.147
.ends

.subckt PM_AND2D2%OUT 1 4 11 22 30
c17 30 0 0.821751f
c18 22 0 0.164003f
c19 1 0 0.279725f
r20 4 30 0.0698587
r21 4 11 0.0145122
r22 1 4 0.00170732
r23 1 11 0.0145122
r24 1 4 0.00170732
r25 1 22 0.0681514
r26 1 30 0.0466667
r27 1 22 0.0622222
.ends

