* File: AND2D4.cdl.pex
* Created: Wed Jan 15 18:23:15 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_AND2D4%net11 1 2 23 24 25 30 50 56 57 59 66 67 72 74 75 83 89 90 96
+ 97 101 102
c78 102 0 0.025562f
c79 101 0 0.0364929f
c80 97 0 0.0664182f
c81 96 0 0.132211f
c82 90 0 0.0361567f
c83 89 0 0.441876f
c84 83 0 0.605437f
c85 75 0 0.46575f
c86 74 0 0.625026f
c87 72 0 0.0502305f
c88 67 0 0.130494f
c89 66 0 0.0839339f
c90 59 0 0.451339f
c91 57 0 0.583937f
c92 56 0 0.0185025f
c93 54 0 0.0378056f
c94 50 0 0.0405044f
r95 101 102 0.175
r96 97 103 0.0129736
r97 96 103 0.0369328
r98 95 96 0.536667
r99 90 102 0.0550476
r100 89 103 0.071307
r101 83 95 0.0800468
r102 75 101 0.0684127
r103 72 74 0.238548
r104 66 97 0.0661111
r105 66 68 0.488662
r106 66 67 0.488662
r107 57 69 0.831548
r108 56 72 1.5
r109 54 56 0.279364
r110 54 68 0.5
r111 51 67 2.83333
r112 50 59 0.831548
r113 50 51 0.049177
r114 49 69 0.049177
r115 49 50 2.33333
r116 30 75 0.0505556
r117 25 30 0.256667
r118 24 59 5
r119 23 57 5
r120 2 89 0.0661111
r121 2 90 0.0661111
r122 1 83 0.0661111
.ends

.subckt PM_AND2D4%IN1 5 6 9 13 15 19 21 23
c27 23 0 0.386809f
c28 21 0 0.574487f
c29 19 0 0.564896f
c30 15 0 0.137623f
c31 13 0 0.402086f
r32 19 25 0.831548
r33 17 23 0.831548
r34 15 21 0.831548
r35 15 16 0.049177
r36 14 25 0.049177
r37 14 15 2.33333
r38 13 17 0.916667
r39 13 16 3.91667
r40 9 23 2.5
r41 6 21 5
r42 5 19 5
.ends

.subckt PM_AND2D4%IN2 5 6 9 13 14 18 20 21
c33 27 0 0.00898807f
c34 21 0 0.0370231f
c35 20 0 0.0839855f
c36 18 0 0.0781173f
c37 14 0 0.397916f
c38 6 0 0.500272f
c39 5 0 0.509714f
r40 24 27 0.0355092
r41 19 27 0.236258
r42 19 20 1.57143
r43 18 27 0.236258
r44 17 21 0.280982
r45 17 18 1.85714
r46 13 20 0.149857
r47 13 14 0.131125
r48 9 14 2.75
r49 6 24 5.25
r50 5 21 5.25
.ends

.subckt PM_AND2D4%VDD 1 6 15 20
c28 20 0 1.08012f
c29 15 0 2.8138f
c30 6 0 0.895922f
c31 1 0 0.984736f
r32 15 20 0.35
r33 6 20 0.282333
r34 1 6 0.154
.ends

.subckt PM_AND2D4%net12 1 10 27 33 36 38 39 45 46
c40 46 0 0.0318687f
c41 45 0 0.0474468f
c42 39 0 0.0515654f
c43 38 0 0.0216409f
c44 36 0 0.0632596f
c45 33 0 0.0825369f
c46 27 0 0.336036f
c47 10 0 0.318232f
r48 39 46 0.103413
r49 38 46 0.186667
r50 36 38 0.039111
r51 35 36 0.186667
r52 33 35 0.039111
r53 33 45 0.175
r54 27 45 0.0684127
r55 10 39 0.0311111
r56 1 27 0.0661111
.ends

.subckt PM_AND2D4%VSS 1 2 19 20 53 55 57 64 65 72 80 81 87 88 89
c63 89 0 0.0171027f
c64 88 0 0.839041f
c65 87 0 0.0170801f
c66 81 0 0.0607047f
c67 80 0 1.23054e-22
c68 72 0 0.109798f
c69 65 0 0.0218363f
c70 64 0 0.014324f
c71 57 0 0.384508f
c72 55 0 0.227948f
c73 53 0 1.44586f
c74 20 0 0.382589f
c75 19 0 1.88979f
c76 2 0 0.401178f
c77 1 0 1.24557f
r78 81 89 0.103413
r79 80 89 0.116667
r80 73 88 0.00677755
r81 72 80 0.039111
r82 71 88 0.0427352
r83 71 72 0.583333
r84 65 87 0.0684127
r85 64 87 0.116667
r86 56 88 0.00677755
r87 55 64 0.039111
r88 54 57 0.0679156
r89 54 55 0.723333
r90 53 56 0.198333
r91 20 81 0.0311111
r92 19 73 0.084
r93 2 65 0.0661111
r94 1 53 0.368667
r95 1 57 0.084
.ends

.subckt PM_AND2D4%OUT 1 14 19 20 26
c21 26 0 0.530699f
c22 20 0 0.516021f
c23 19 0 0.383888f
r24 26 37 0.0534439
r25 20 36 0.0800468
r26 19 37 0.221667
r27 19 36 0.315
r28 14 26 0.0777778
r29 1 20 0.0661111
.ends

