* File: BUFD2.cdl.pex
* Created: Fri Dec  6 17:08:19 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_BUFD2%net1 4 6 7 8 18 19 25 26 27 28 32 37 42
c39 44 0 0.00898459f
c40 42 0 0.11875f
c41 37 0 0.0604718f
c42 32 0 0.0566452f
c43 28 0 0.13307f
c44 26 0 0.313154f
c45 25 0 0.538118f
c46 19 0 0.197099f
c47 18 0 0.058743f
c48 8 0 0.0260292f
c49 7 0 0.122796f
c50 6 0 0.0246215f
c51 5 0 0.0361572f
c52 4 0 0.204362f
r53 38 44 0.0337467
r54 37 38 0.198333
r55 33 44 0.0100005
r56 32 44 0.0100005
r57 31 42 0.000363213
r58 31 32 0.07
r59 28 33 0.1015
r60 27 42 0.0194444
r61 18 37 0.0684127
r62 18 20 0.488662
r63 18 19 0.488662
r64 7 26 0.227193
r65 7 8 2.91667
r66 5 25 0.227193
r67 5 6 0.916667
r68 4 8 0.279364
r69 4 20 3.08333
r70 1 6 0.279364
r71 1 19 3.08333
.ends

.subckt PM_BUFD2%IN 1 6 7 8 9 23 24
c20 24 0 0.129513f
c21 23 0 0.165063f
c22 19 0 0.0353468f
c23 9 0 0.0313066f
c24 8 0 0.0600617f
c25 7 0 0.0680928f
c26 6 0 0.05995f
c27 1 0 0.816912f
r28 19 23 0.407372
r29 9 23 0.125
r30 9 23 1.125
r31 7 24 0.227193
r32 7 8 1.58333
r33 6 19 0.833333
r34 3 8 0.279364
r35 2 6 0.279364
r36 1 3 3.08333
r37 1 2 4.66667
.ends

.subckt PM_BUFD2%VSS 1 2 7
c10 2 0 1.96616f
c11 1 0 0.630141f
r12 1 2 0.196
r13 1 7 0.0583333
.ends

.subckt PM_BUFD2%VDD 1 2 6
c15 2 0 1.99719f
c16 1 0 0.677044f
r17 1 2 0.240333
r18 1 6 0.07
.ends

.subckt PM_BUFD2%OUT 1 2 8
c14 8 0 0.685905f
c15 1 0 0.445086f
r16 8 11 0.0256667
r17 2 8 0.0385
r18 1 11 0.0136882
r19 1 17 0.0697536
r20 1 17 0.0466667
.ends

