* File: BUFD4.cdl.pex
* Created: Fri Dec  6 21:21:55 2024
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_BUFD4%net1 1 4 6 8 9 10 11 13 14 28 32 33 40 41 42 43 44 52 61
c61 61 0 0.0165554f
c62 52 0 0.0549399f
c63 43 0 0.401865f
c64 42 0 0.485467f
c65 41 0 0.334392f
c66 40 0 0.439167f
c67 33 0 0.0155616f
c68 32 0 0.0115956f
c69 28 0 0.0524437f
c70 14 0 0.0263314f
c71 13 0 0.0222239f
c72 11 0 0.0101229f
c73 10 0 0.0243016f
c74 9 0 0.0136222f
c75 8 0 0.182099f
c76 6 0 0.0359212f
c77 4 0 0.0835394f
c78 1 0 0.091986f
r79 53 57 0.072244
r80 52 61 0.0417772
r81 52 53 0.198333
r82 44 57 0.0595
r83 43 57 0.0525
r84 43 48 0.0311693
r85 43 48 0.07
r86 28 61 0.0233333
r87 28 30 0.166667
r88 13 42 0.227193
r89 13 14 0.583333
r90 12 32 0.055023
r91 11 41 0.227193
r92 11 12 0.583333
r93 9 40 0.227193
r94 9 10 0.583333
r95 8 14 0.279364
r96 7 33 0.211723
r97 7 8 2.75
r98 6 33 0.211723
r99 5 32 0.211723
r100 5 6 1.58333
r101 4 32 0.211723
r102 3 10 0.279364
r103 3 4 2.33333
r104 2 30 0.298409
r105 1 33 0.055023
r106 1 2 1.5
.ends

.subckt PM_BUFD4%IN 1 6 8 21 22
c20 22 0 0.201901f
c21 21 0 0.363423f
c22 8 0 0.0600617f
c23 7 0 0.0245853f
c24 6 0 0.0600617f
c25 5 0 0.0245853f
c26 1 0 0.787814f
r27 7 22 0.227193
r28 7 8 0.583333
r29 5 21 0.227193
r30 5 6 0.583333
r31 3 8 0.279364
r32 2 6 0.279364
r33 1 3 3.91667
r34 1 2 3.75
.ends

.subckt PM_BUFD4%VDD 1 2 7
c20 2 0 2.46547f
c21 1 0 0.571532f
r22 1 2 0.28
r23 1 7 0.0466667
.ends

.subckt PM_BUFD4%VSS 1 2 3 12 13 21 31 32 41
c43 41 0 0.0195385f
c44 40 0 0.0463594f
c45 32 0 0.0344428f
c46 31 0 0.00814743f
c47 21 0 0.177454f
c48 13 0 1.29804f
c49 3 0 0.305408f
c50 2 0 1.64098f
r51 32 41 0.0532251
r52 31 41 0.0933333
r53 22 40 0.00677755
r54 21 31 0.039111
r55 20 40 0.0427352
r56 20 21 0.641667
r57 13 40 0.00677755
r58 3 32 0.0583333
r59 2 22 0.0746667
r60 1 13 0.0886667
r61 1 12 0.0676667
.ends

.subckt PM_BUFD4%OUT 1 2 9 10 18 26 28 33 34
c28 34 0 0.080276f
c29 33 0 0.0642423f
c30 28 0 0.0983514f
c31 26 0 0.0957702f
c32 18 0 0.294561f
c33 10 0 0.251462f
c34 9 0 0.47283f
r35 28 31 0.039111
r36 28 34 0.151667
r37 26 30 0.039111
r38 26 33 0.151667
r39 18 34 0.0532251
r40 10 33 0.0532251
r41 9 31 0.338333
r42 9 30 0.338333
r43 2 18 0.0583333
r44 1 10 0.0583333
.ends

